US06790844B2
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-[2-(4-hydroxypiperidin-1-yl)pyridin-5-yl]isoquinoline
3-Bromo-1-(4-ethylpiperazin-1-yl)isoquinoline (1.16 g) and {2-[4-(t-butyldimethyloxy)piperidin-1-yl]pyridin-5-yl}tributylstannum (1.37 g) was reacted in the presence of tetrakistriphenylphosphine dichloride (0.30 g) in xylene (30 ml) at 140° C. for 5 hr. The reaction solution was concentrated. A 2N aqueous solution of hydrochloric acid was added to the resulting residue, and then reacted at 50° C. for 1 hr. The reaction solution was basified with a 2N aqueous solution of sodium hydroxide, and then it was extracted with ethyl acetate. The resulting organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give 0.26 g of the free compound of the title compound as a colorless amorphous.

reactant | 3-Bromo-1-(4-ethylpiperazin-1-yl)isoquinoline | 1.16 g | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18BrN3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(4-ethylpiperazin-1-yl)-3-[2-(4-hydroxypiperidin-1-yl)pyridin-5-yl]isoquinoline | 0.26 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C=1C=CC(=NC1)N1CCC(CC1)O | C25H31N5O
